US07504420B2
To a stirring solution of 363 mg (1.49 mmol) of methyl 5-(benzyloxy)nicotinate in 10 mL of THF at 0° C. was added 141 mg (3.71 mmol) of LiAlH4. The ice bath was removed, and after 55 min., 20.5 mg of LiAlH4 was added. After 40 min., the reaction was quenched by adding successively 160 μL of H2O, 160 μL of 15% aqueous NaOH, and 480 μL of brine. Purification by flash silica gel chromatography (2 mL MeOH/100 mL CHCl3) provided 250 mg of (5-(benzyloxy)pyridin-3-yl)methanol (yellow oil) in 78% yield.

reactant | methyl 5-(benzyloxy)nicotinate | 1.49 mmol, 363 mg | C(C1=CC=CC=C1)OC=1C=NC=C(C(=O)OC)C1 | C14H13NO3
reactant | LiAlH4 | 3.71 mmol, 141 mg | [H-].[H-].[H-].[H-].[Li+].[Al+3]
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (5-(benzyloxy)pyridin-3-yl)methanol | 250 mg, 78% yield | C(C1=CC=CC=C1)OC=1C=C(C=NC1)CO | C13H13NO2
